US06245761B1
Preparation of 2-fluoro-5-chlorobenzyl alcohol
The title intermediate was prepared essentially as was 2-fluoro-5-methylbenzyl alcohol, supra, except that an equimolar amount of 2-fluoro-5-chlorobenzaldehyde was employed instead of the 2-fluoro-5-methylbenzaldehyde employed therein.

reactant | 2-fluoro-5-methylbenzyl alcohol | FC1=C(CO)C=C(C=C1)C | C8H9FO
reactant | 2-fluoro-5-chlorobenzaldehyde | FC1=C(C=O)C=C(C=C1)Cl | C7H4ClFO
product | 2-fluoro-5-chlorobenzyl alcohol | FC1=C(CO)C=C(C=C1)Cl | C7H6ClFO
